US07544685B2
Ethyl (RS)-(2,3-Dihydro-5-fluoro-1H-indol-3-yl)acetate
A mixture of ethyl (5-fluoro-1H-indol-3-yl)acetate (Bullock et al. J. Am. Chem. Soc. 1951, 73, 5155-5157) (72.5 g, 0.33 mol), 70% methane sulfonic acid (aq) (50 mL) and palladium (5 wt %, dry basis) on activated carbon (20 g) in ethanol (700 mL) was treated with hydrogen at 3 bar and 50° C. for 48 h. The mixture was filtered and concentrated in vacuo. The residue was dissolved in ethyl acetate, and aqueous ammonia was added. The phases were separated, and the aqueous phase was extracted twice with ethyl acetate. The combined organic phase was washed with brine, dried (MgSO4) and concentrated in vacuo (55 g, 75%).

reactant | ethyl (5-fluoro-1H-indol-3-yl)acetate | 0.33 mol, 72.5 g | FC=1C=C2C(=CNC2=CC1)CC(=O)OCC | C12H12FNO2
reactant | methane sulfonic acid | 50 mL | CS(=O)(=O)O | CH4O3S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 700 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | Ethyl (RS)-(2,3-Dihydro-5-fluoro-1H-indol-3-yl)acetate | FC=1C=C2C(CNC2=CC1)CC(=O)OCC | C12H14FNO2
